US06011044
Preparation of 1-(2-methoxyphenyl)-4-[(4-hydroxybutyl)amino]-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2-Methoxyphenyl)-4-chloro-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline(500 mg, 1.2 mmol) was dissolved in diethylene glycol(10 ml) and 4-amino-1-butanol(175 μl, 1.9 mmol) was added. It was reacted at the same condition of Step 3 in the Example 38 to obtain 120 mg of desired compound as solid in 39% of yield.

reactant | 1-(2-Methoxyphenyl)-4-chloro-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 1.2 mmol, 500 mg | COC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)Cl | C20H16ClF3N2O2
reactant | 4-amino-1-butanol | 1.9 mmol, 175 μl | NCCCCO | C4H11NO
solvent | diethylene glycol | 10 ml | C(COCCO)O | C4H10O3
product | 1-(2-methoxyphenyl)-4-[(4-hydroxybutyl)amino]-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 120 mg | COC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)NCCCCO | C24H26F3N3O3
